US09284331B2
2-(3-chloro-2-methoxyphenyl)ethanamine
2-(3-chloro-2-methoxyphenyl)acetonitrile. A solution of 1-(bromomethyl)-3-chloro-2-methoxybenzene (30.8 g, 131 mmol) in EtOH (150 mL) at RT and under N2 was treated with an aq. solution of NaCN (12.8 g, 262 mmol in 50 mL H2O) and the mixture was heated to 100° C. for 3 h. The reaction was then cooled to RT and taken up in Et2O. The mixture was washed with H2O and brine, and the aq. phase was extracted again with Et2O. The combined org. layers dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, Hexane to Hexane/AcOEt 4:1) to afford the title compound (15.8 g) as brown oil. UPLC (2 min) rt 1.383.

reactant | 2-(3-chloro-2-methoxyphenyl)acetonitrile | ClC=1C(=C(C=CC1)CC#N)OC | C9H8ClNO
reactant | 1-(bromomethyl)-3-chloro-2-methoxybenzene | 131 mmol, 30.8 g | BrCC1=C(C(=CC=C1)Cl)OC | C8H8BrClO
reactant | NaCN | 262 mmol, 50 mL, 12.8 g | [C-]#N.[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
solvent | Et2O | CCOCC | C4H10O
product | 2-(3-chloro-2-methoxyphenyl)ethanamine | 15.8 g | ClC=1C(=C(C=CC1)CCN)OC | C9H12ClNO
